US07285563B2
N-(2-naphthyl)-N′-[quinolin-6-yl]urea
Prepared from 6-aminoquinoline and 2-naphthyl isocyanate. m/z (ES+) 314 (M+H)+.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | 2-naphthyl isocyanate | C1=C(C=CC2=CC=CC=C12)N=C=O | C11H7NO
product | N-(2-naphthyl)-N′-[quinolin-6-yl]urea | C1=C(C=CC2=CC=CC=C12)NC(=O)NC=1C=C2C=CC=NC2=CC1 | C20H15N3O
